US07074800B1
Using a procedure analogous to that described for Example 10, 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (74 mg, 0.23 mmol), (prepared as described for the starting material in Example 10), was reacted with 6-hydroxyquinoline (41 mg, 0.28 mol) to give 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(quinolin-6-yloxy)quinazoline (89 mg, 94%).

reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.23 mmol, 74 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 6-hydroxyquinoline | 0.28 mol, 41 mg | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
product | 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(quinolin-6-yloxy)quinazoline | 89 mg, 94% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)OC=1C=C2C=CC=NC2=CC1 | C25H26N4O3
